US07612075B2
To a solution of (2-oxo-piperazin-1-yl)acetic acid tert-butyl ester (1.22 g, 5.7 mmol) in 10 ml of methylene chloride is added triethylamine (1.2 mL, 8.55 mmol) and 6-chlorobenzothiophenesulfonyl chloride (1.52 g, 5.7 mmol). The reaction mixture is stirred overnight at ambient temperature. Flash column chromatography (50% ethyl acetate/hexane) affords 2.3 g (92%) of [4-(6-chlorobenzo[b]thiophene-2-sulfonyl)-2-oxopiperazine-1-yl]acetic acid tert-butyl ester.

reactant | (2-oxo-piperazin-1-yl)acetic acid tert-butyl ester | 5.7 mmol, 1.22 g | C(C)(C)(C)OC(CN1C(CNCC1)=O)=O | C10H18N2O3
reactant | triethylamine | 8.55 mmol, 1.2 mL | C(C)N(CC)CC | C6H15N
reactant | 6-chlorobenzothiophenesulfonyl chloride | 5.7 mmol, 1.52 g | ClC1=CC2=C(C=C(S2)S(=O)(=O)Cl)C=C1 | C8H4Cl2O2S2
reactant | ethyl acetate hexane | C(C)(=O)OCC.CCCCCC
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
product | [4-(6-chlorobenzo[b]thiophene-2-sulfonyl)-2-oxopiperazine-1-yl]acetic acid tert-butyl ester | 2.3 g, 92% | C(C)(C)(C)OC(CN1C(CN(CC1)S(=O)(=O)C1=CC2=C(S1)C=C(C=C2)Cl)=O)=O | C18H21ClN2O5S2
